US07714010B2
b) 3,5,7,7-Tetramethyl-2-((E)-styryl)-5,7-dihydro-3H-imidazo[4,5-f]indol-6-one
A solution of (E)-3-phenyl-N-(1,3,3-trimethyl-6-methylamino-2-oxo-2,3-dihydro-1H-indol-5-yl)-acrylamide (288 mg) in acetic acid (6 ml) is heated under reflux for 1 h. After recooling the mixture is poured into ice-water whereupon the desired compound (250 mg) is precipitated.

reactant | (E)-3-phenyl-N-(1,3,3-trimethyl-6-methylamino-2-oxo-2,3-dihydro-1H-indol-5-yl)-acrylamide | 288 mg | C1(=CC=CC=C1)/C=C/C(=O)NC=1C=C2C(C(N(C2=CC1NC)C)=O)(C)C | C21H23N3O2
solvent | acetic acid | 6 ml | C(C)(=O)O | C2H4O2
product | 3,5,7,7-Tetramethyl-2-((E)-styryl)-5,7-dihydro-3H-imidazo[4,5-f]indol-6-one | 250 mg | CN1C(=NC2=CC=3C(C(N(C3C=C21)C)=O)(C)C)\C=C\C2=CC=CC=C2 | C21H21N3O
